US06313122B1
A. N1-(4-Nitrobenzoyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine
Using the procedure described in Example 102, Part A, N1-(4-tert-butylbenzoyl)-1,2-benzenediamine (3.1 mmol) and 4-nitrobenzoic acid (3.0 mmol) yielded the title product, which was used directly in the next step without additional purification.

reactant | N1-(4-tert-butylbenzoyl)-1,2-benzenediamine | 3.1 mmol | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C17H20N2O
reactant | 4-nitrobenzoic acid | 3.0 mmol | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | N1-(4-Nitrobenzoyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine | [N+](=O)([O-])C1=CC=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)C(C)(C)C)=O)C=C1 | C24H23N3O4
